US06576596B1
A solution of 4.37 g (0.0137 mol) of methyl 2-chloro-3-ethoxyiminomethyl-4-methylsulfonylbenzoate was slowly added dropwise to 7.29 g (0.055 mol) of lithium iodide in 50 ml of dry pyridine. After stirring for 2 hours at reflux, the reaction mixture was cooled and the solvent was removed under reduced pressure. The residue was taken up in water and adjusted to pH=1-2 with dilute hydrochloric acid. The aqueous phase was extracted with ethyl acetate and the combined organic phases were washed with water, dried and concentrated under reduced pressure. 3.70 g of 2-chloro-3-ethoxyiminomethyl-4-methylsulfonylbenzoic acid were obtained. (Yield 89%).

reactant | methyl 2-chloro-3-ethoxyiminomethyl-4-methylsulfonylbenzoate | 0.0137 mol, 4.37 g | ClC1=C(C(=O)OC)C=CC(=C1C=NOCC)S(=O)(=O)C | C12H14ClNO5S
reactant | lithium iodide | 0.055 mol, 7.29 g | [I-].[Li+]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloro-3-ethoxyiminomethyl-4-methylsulfonylbenzoic acid | 3.70 g, Yield 89% | ClC1=C(C(=O)O)C=CC(=C1C=NOCC)S(=O)(=O)C | C11H12ClNO5S
